US04186199
A solution of 8.81 g of 6-cyclohexyl-1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine in 50 ml dry THF is added dropwise to an ice cold solution of BH3 in THF (90 ml of 1 M solution; 0.090 mole) under N2. The resulting solution is refluxed for 15 minutes, cooled to 0° C., treated dropwise with 6 M HCl, and gently refluxed for 1 hour. The resulting clear solution is cooled to 0° C. and made basic with solid NaOH. The aqueous phase is extracted with ether and the combined organic layers are washed with brine, dried over K2CO3, and concentrated to give an oil. Two crystallizations from ether/heptane yield 6-cyclohexyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine, m.p. 136°-137.5° C.

reactant | 6-cyclohexyl-1,2-dihydroindolo[1,7-ab][1,5]benzodiazepine | 8.81 g | C1(CCCCC1)C=1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C21H22N2
reactant | HCl | 6 M | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 0.090 mole, 1 M, 90 ml | C1CCOC1 | C4H8O
product | 6-cyclohexyl-1,2,6,7-tetrahydroindolo[1,7-ab][1,5]benzodiazepine | C1(CCCCC1)C1C2=C3N(C4=C(N1)C=CC=C4)CCC3=CC=C2 | C21H24N2
